US08026257B2
1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-benzo[d]imidazole.
N-Methylation of tert-butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (35 mg, 0.064 mmol) was carried out as described in the preparation of 4-(1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazol-5-yl)benzonitrile obtain the title compound (9 mg, 31%) as a free base. 1H-NMR (500 MHz, CD3OD) δ 7.93 (s, 1 H), 7.71 (d, J=8.5 Hz, 1 H), 7.60 (d, J=8.5 Hz, 1 H), 7.40-7.25 (m, 5 H), 4.77 (s, 2 H), 3.88 (d, J=6.4 Hz, 2 H), 3.62 (bs, 2 H), 3.41 (m, 2 H), 2.93 (m, 2 H), 2.78 (s, 3 H), 2.54 (m, 2 H), 2.21 (m, 2 H), 1.04 (m, 1 H), 0.53-0.46 (m, 2 H), 0.33-0.29 (m, 2 H). 19F NMR (471 MHz, CD3OD) δ −69.0.

reactant | tert-butyl 4-(((1-(cyclopropylmethyl)-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.064 mmol, 35 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(F)(F)F)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C30H36F3N3O3
reactant | 4-(1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-1H-benzo[d]imidazol-5-yl)benzonitrile | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C2=CC=C(C#N)C=C2)COCC2(CCN(CC2)C)C2=CC=CC=C2 | C32H34N4O
product | 1-(Cyclopropylmethyl)-2-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-benzo[d]imidazole | 9 mg, 31% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(F)(F)F)COCC2(CCN(CC2)C)C2=CC=CC=C2 | C26H30F3N3O
